US08685969B2
2. 4-(3-(1-(2-Fluorophenyl)-2-nitroethyl)-1H-indol-6-yl)morpholine
A mixture of 4-(1H-indol-6-yl)morpholine (0.300 g, 1.483 mmol) and (E)-1-fluoro-2-(2-nitrovinyl)benzene (0.372 g, 2.225 mmol) in toluene (8 mL) was heated in a pressure tube at 150° C. for 2 days. The solvent was removed under vacuum, and the residue was subjected to ISCO (80 g silica gel, solid loading, 30-60% ethyl acetate/hexane) to provide the desired product (0.239 g, 0.647 mmol, 43.6% yield) as a tan solid.

reactant | 4-(1H-indol-6-yl)morpholine | 1.483 mmol, 0.300 g | N1C=CC2=CC=C(C=C12)N1CCOCC1 | C12H14N2O
reactant | (E)-1-fluoro-2-(2-nitrovinyl)benzene | 2.225 mmol, 0.372 g | FC1=C(C=CC=C1)\C=C\[N+](=O)[O-] | C8H6FNO2
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-(1-(2-Fluorophenyl)-2-nitroethyl)-1H-indol-6-yl)morpholine | 0.647 mmol, 0.239 g, 43.6% yield | FC1=C(C=CC=C1)C(C[N+](=O)[O-])C1=CNC2=CC(=CC=C12)N1CCOCC1 | C20H20FN3O3
